US08304419B2
Step C: Ethyl 2,4-dimethyl-1H-imidazole-5-carboxylate
Ammonium acetate (185 mg, 2.4 mmol) was added to a solution of ethyl 2-(acetylamino)-3-oxobutanoate (90 mg, 0.48 mmol) in acetic acid (1.0 mL). The mixture was heated to reflux overnight. After cooling, the solvent was evaporated under reduced pressure and the residue was taken up in saturated sodium bicarbonate and extracted with EtOAc. The organic layer was dried over sodium sulfate, and concentrated. The residue was purified by column chromatography (0-4% 2M NH3 solution of MeOH in DCM) to give the title compound (54 mg, 67%) as a white solid. 1H NMR (400 MHz, CDCl3-d) δ ppm 4.30 (q, J=7.20 Hz, 2H) 2.44 (s, 3H) 2.38 (s, 3H) 1.34 (t, J=7.14 Hz, 3H). LCMS: m/z 169 (M+1).

reactant | Ammonium acetate | 2.4 mmol, 185 mg | C(C)(=O)[O-].[NH4+]
reactant | ethyl 2-(acetylamino)-3-oxobutanoate | 0.48 mmol, 90 mg | C(C)(=O)NC(C(=O)OCC)C(C)=O | C8H13NO4
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | Ethyl 2,4-dimethyl-1H-imidazole-5-carboxylate | 54 mg, 67% | CC=1NC(=C(N1)C)C(=O)OCC | C8H12N2O2
